US09388161B2
A mixture of (S)-1-(6-bromo-5-hydroxy-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone (0.200 g, 0.71 mmol), 1-allyl-2-bromo-1H-benzo[d]imidazole (0.340 g, 1.44 mmol), and potassium carbonate (0.293 g, 2.12 mmol) in N,N-dimethylacetamide (10 mL) was heated in the microwave for 2 h at 200° C. The reaction mixture was cooled to room temperature, filtered, and concentrated under vacuum. The residue was purified via preparative thin layer chromatography (eluting with 20% ethyl acetate/petroleum ether) to afford (S)-5-(1-allyl-1H-benzo[d]imidazol-2-yloxy)-6-bromo-2-methyl-1,2,3,4-tetrahydroquinoline (0.115 g, 41%) of as a light yellow solid. MS (ESI, pos. ion) m/z 398, 400 [M+H]+.

reactant | (S)-1-(6-bromo-5-hydroxy-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone | 0.71 mmol, 0.200 g | BrC=1C(=C2CC[C@@H](N(C2=CC1)C(C)=O)C)O | C12H14BrNO2
reactant | 1-allyl-2-bromo-1H-benzo[d]imidazole | 1.44 mmol, 0.340 g | C(C=C)N1C(=NC2=C1C=CC=C2)Br | C10H9BrN2
reactant | potassium carbonate | 2.12 mmol, 0.293 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylacetamide | 10 mL | CN(C(C)=O)C | C4H9NO
product | (S)-5-(1-allyl-1H-benzo[d]imidazol-2-yloxy)-6-bromo-2-methyl-1,2,3,4-tetrahydroquinoline | 0.115 g, 41% | C(C=C)N1C(=NC2=C1C=CC=C2)OC2=C1CC[C@@H](NC1=CC=C2Br)C | C20H20BrN3O
